US04088767
To a solution of 2.5 g of 4-(3',5'-dichlorophenyl) urazole in 10 ml of N,N-dimethylformamide were added a drop of triethylamine and, in turn, 0.8 g of methyl isocyanate dropwise at room temperature with agitation. The reaction was continued for one additional hour under the same conditions and the reaction mixture was poured in water to precipitate crystals which were filtered and recrystallized from acetoneethanol to obtain 1-methylcarbamoyl-4-(3',5'-dichlorophenyl) urazole in an amount of 2.1 g (yield being 68%).

reactant | 4-(3',5'-dichlorophenyl) urazole | 2.5 g | ClC=1C=C(C=C(C1)Cl)N1C(NNC1=O)=O | C8H5Cl2N3O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 0.8 g | CN=C=O | C2H3NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-methylcarbamoyl-4-(3',5'-dichlorophenyl) urazole | CNC(=O)N1NC(=O)N(C1=O)C1=CC(=CC(=C1)Cl)Cl | C10H8Cl2N4O3
